US09145392B2
6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(2-isopropylpyridin-4-yl)-1H-imidazol-2-yl)piperidin-1-yl)-5-vinylpyrimidin-4-amine (“182”)
a mixture of 6-{4-[1-(2-Azetidin-1-yl-ethyl)-4-(2-isopropyl-pyridin-4-yl)-1H-imidazol-2-yl]-piperidin-1-yl}-5-bromo-pyrimidin-4-ylamine (70.00 mg; 0.13 mmol; 1.00 eq.), 4,4,5,5-Tetramethyl-2-vinyl-[1,3,2]dioxaborolane (0.03 ml; 0.16 mmol; 1.20 eq.), (4.77 mg; 0.01 mmol; 0.07 eq.) and in doxane 15 ml and water 1.5 ml, stirred at 50 C for overnight.

reactant | 6-{4-[1-(2-Azetidin-1-yl-ethyl)-4-(2-isopropyl-pyridin-4-yl)-1H-imidazol-2-yl]-piperidin-1-yl}-5-bromo-pyrimidin-4-ylamine | 0.13 mmol, 70.00 mg, 1.00 eq. | N1(CCC1)CCN1C(=NC(=C1)C1=CC(=NC=C1)C(C)C)C1CCN(CC1)C1=C(C(=NC=N1)N)Br | C25H33BrN8
reactant | 4,4,5,5-Tetramethyl-2-vinyl-[1,3,2]dioxaborolane | 0.16 mmol, 0.03 ml, 1.20 eq. | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
solvent | water | 1.5 ml | O | H2O
product | 6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(2-isopropylpyridin-4-yl)-1H-imidazol-2-yl)piperidin-1-yl)-5-vinylpyrimidin-4-amine | N1(CCC1)CCN1C(=NC(=C1)C1=CC(=NC=C1)C(C)C)C1CCN(CC1)C1=C(C(=NC=N1)N)C=C | C27H36N8
